US06596772B1
N-(4-Trifluoromethanesulfonyl-phenyl)-2-{4-[(4-trifluoromethanesulfonyl-phenylcarbamoyl)-methyl]-phenyl}-acetamide (34).
Same procedure as Example 20 except 4-aminophenyl trifluoromethyl sulfone and 1,4-phenylenediacetic acid were used. 1H NMR (300 MHz, DMSO-d6) δ 10.90 (s, 2H, 2×NH), 8.04 (d, J=8.9 Hz, 4H), 7.99 (d, J=8.9 Hz, 4H), 7.84 (d, J=8.9 Hz, 2H), 7.23 (d, J=8.9 Hz, 2H), 3.71 (s, 4H, 2×CH2). MS 609 [M++1].

reactant | 4-aminophenyl trifluoromethyl sulfone | FC(F)(F)S(=O)(=O)C1=CC=C(C=C1)N | C7H6F3NO2S
reactant | 1,4-phenylenediacetic acid | C1(=CC=C(C=C1)CC(=O)O)CC(=O)O | C10H10O4
product | N-(4-Trifluoromethanesulfonyl-phenyl)-2-{4-[(4-trifluoromethanesulfonyl-phenylcarbamoyl)-methyl]-phenyl}-acetamide | FC(S(=O)(=O)C1=CC=C(C=C1)NC(CC1=CC=C(C=C1)CC(NC1=CC=C(C=C1)S(=O)(=O)C(F)(F)F)=O)=O)(F)F | C24H18F6N2O6S2
